US05434186
Preparation of 2-(3-Carboxypropoxy)-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid
Using the procedure of example 184, 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one was converted into the title compound by alkylation with 2-(4-methoxy-4-oxobutoxy)-6-[6-(methylsulfonyl)oxyhexyl]benzenepropanoic acid methyl ester from the preceding example, followed by saponification, in 40% overall yield. The product was a colorless solid, mp 116°-117.5° C., recrystallized from acetonitrile.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-(4-methoxy-4-oxobutoxy)-6-[6-(methylsulfonyl)oxyhexyl]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1CCCCCCOS(=O)(=O)C)OCCCC(=O)OC)=O | C22H34O8S
product | 2-(3-Carboxypropoxy)-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid | C(=O)(O)CCCOC1=C(C(=CC=C1)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)O | C31H40O8
